US06228861B1
To a well stirred solution of (+)-5-methoxycarbonyl-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine (1.11 g, 3.4 mmol) and 4-(N,N-dimethylamino)pyridine (0.54 g, 4.42 mmol) in CH2Cl2 (200 mL) was added powdered 4-nitrophenyl chloroformate (0.891 g, 4.42 mmol) at room temperature. Solvent was evaporated and the residue was purified by column chromatography on silica gel using CHCl3/EtOAc (20%-50%) as the eluent to give (+)-5-methoxycarbonyl-4-methoxymethyl-1,6-dihydro-2-methoxy-6-(3,4-difluorophenyl)-1-[(4-nitrophenyloxy) carbonyl]pyrimidine (1.30 g, 78%) as a viscous oil. [α]D=+262.2 (c=2.3 g in 100 mL CHCl3).

reactant | (+)-5-methoxycarbonyl-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine | 3.4 mmol, 1.11 g | COC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)COC | C15H16F2N2O4
reactant | 4-nitrophenyl chloroformate | 4.42 mmol, 0.891 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
catalyst | 4-(N,N-dimethylamino)pyridine | 4.42 mmol, 0.54 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (+)-5-methoxycarbonyl-4-methoxymethyl-1,6-dihydro-2-methoxy-6-(3,4-difluorophenyl)-1-[(4-nitrophenyloxy) carbonyl]pyrimidine | 1.30 g, 78% | COC(=O)C1=C(N=C(N(C1C1=CC(=C(C=C1)F)F)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)COC | C22H19F2N3O8
